data/core_train_final.csv
"[H:35][CH:34]1[CH2:33][C:30]([CH:29]2[CH2:28][CH2:27][C:25]3([CH:39]([C:37]2([CH2:36]1)[CH3:38])[CH2:40][C:23](=[O:22])[O:24]3)[CH3:26])([CH3:31])[CH3:32].[CH3:5][C:4]([CH3:6])([CH3:7])[N:3][C:2](=[O:1])[C:8]1=[CH:9][C:10](=[CH:15][C:16](=[CH:21]1)[C:17]([F:18])([F:19])[F:20])[C:11]([F:12])([F:13])[F:14]>>[H:35][N:3]([C:2](=[O:1])[C:8]1=[CH:21][C:16](=[CH:15][C:10](=[CH:9]1)[C:11]([F:14])([F:13])[F:12])[C:17]([F:18])([F:20])[F:19])[C:4]([CH3:7])([CH3:5])[CH3:6].[CH3:31][C:30]1([CH2:33][CH:34][CH2:36][C:37]2([CH:29]1[CH2:28][CH2:27][C:25]3([CH:39]2[CH2:40][C:23](=[O:22])[O:24]3)[CH3:26])[CH3:38])[CH3:32] 3-3,35; 34,35-3,35; 34,35-34",Room Temperature,Propagation,abstraction
"[CH2:3]1[CH2:4][C:7](=[O:8])[N:5]([C:2]1=[O:1])[Br:6].[He]>>[He].[CH2:3]1[CH2:4][C:7](=[O:8])[N:5][C:2]1=[O:1].[Br:6] 6,5-5;5,6-6",Light,Initiation,homolyze
"CCOC([C:10](C(CCC[C:21]#[CH:20])=O)C)=O>>CCOC([C:10]1(C)C(CCC[CH:21]=[C:20]1)=O)=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCCC[Sn](CCCC)(CCCC)I.CC1(CC[CH:21]=[CH:20]1)C2CC(CC2[CH:10]C(=O)OC)(C(=O)OC)C(=O)OC>>CCCC[Sn](CCCC)(CCCC)I.CC12CC[CH:21][CH:20]1[CH:10](C3C2CC(C3)(C(=O)OC)C(=O)OC)C(=O)OC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"C[C:20](C)CCC(C)(C)C.[Cl:10][Cl:11]>>CC(C)(C)CC[C:20](C)(C)[Cl:10].[Cl:11] 10,11-11;11,10-20,10;20-10,20",Room Temperature,Propagation,abstraction
"[H:7][C:6]([H:8])([CH2:5][CH2:4][CH2:3][CH:2]=[CH2:1])[Br:9].[CH3:10][CH2:11][CH2:12][CH2:13][Sn:14]([CH2:15][CH2:16][CH2:17][CH3:18])[CH2:19][CH2:20][CH2:21][CH3:22]>>[H:7][C:6]([H:8])[CH2:5][CH2:4][CH2:3][CH:2]=[CH2:1].[CH3:10][CH2:11][CH2:12][CH2:13][Sn:14]([CH2:15][CH2:16][CH2:17][CH3:18])([CH2:19][CH2:20][CH2:21][CH3:22])[Br:9] 9,6-6;14-14,9;9,6-14,9",Room Temperature,Propagation,abstraction
"[CH2:15]=[CH:14][C:12](=[CH2:11])[Cl:13].[CH2:1][CH:2]=[C:3]([CH2:5][O:6][S:7](=[O:8])(=[O:10])[O-:9])[Cl:4]>>[CH2:15][CH:14]=[C:12]([CH2:11][CH2:1][CH:2]=[C:3]([CH2:5][O:6][S:7](=[O:8])(=[O:10])[O-:9])[Cl:4])[Cl:13] 1-1,11; 11,12-1,11; 11,12-12,14; 14,15-12,14; 14,15-15",Room Temperature,Propagation,addition
"[CH3:5][CH2:4][O:3][C:2](=[O:1])[C:6]([CH3:7])[C:8](=[O:19])[CH2:9][CH2:10][C:11](=[CH:13][CH2:14][CH2:15][CH2:16][CH:17]=[CH2:18])[CH3:12]>>[CH3:5][CH2:4][O:3][C:2](=[O:1])[C:6]1([CH:13]([C:11]([CH2:10][CH2:9][C:8]1=[O:19])[CH3:12])[CH2:14][CH2:15][CH2:16][CH:17]=[CH2:18])[CH3:7] 6-6,13; 11,13-6,13; 11,13-11",Room Temperature,Propagation,addition
"[CH3:15][CH2:16][CH2:17][CH2:18][O:19][C:20](=[O:21])[CH:22]=[CH2:23].[CH3:1][CH2:2][CH2:3][CH2:4][O:5][C:6](=[O:7])[CH:8][CH2:9][C:10]([CH3:11])([CH3:12])[C:13]#[N:14]>>[CH3:15][CH2:16][CH2:17][CH2:18][O:19][C:20](=[O:21])[CH:22][CH2:23][CH:8]([CH2:9][C:10]([CH3:11])([CH3:12])[C:13]#[N:14])[C:6](=[O:7])[O:5][CH2:4][CH2:3][CH2:2][CH3:1] 22,23-8,23; 8-8,23; 22,23-22",Room Temperature,Propagation,addition
"CCCCO[CH:21]=[CH2:20].CCOP(=O)([CH:10]C)OCC>>CCCCO[CH:21][CH2:20][CH:10](C)P(=O)(OCC)OCC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][Sn:21](CCCC)(CCCC)CCCC.CCCCO[CH:10]CC(C)P(=O)(OCC)OCC>>[H:20][CH:10](CC(C)P(=O)(OCC)OCC)OCCCC.CCCC[Sn:21](CCCC)CCCC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[C:10]1CCC1.[Cl:20][Cl:21]>>C[C:10]1(CCC1)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:7][C:6]([H:8])([H:9])[CH2:5][CH2:4][CH2:3][C:2]([CH3:1])([CH3:10])[CH3:11].[Cl:12]>>[H:7][C:6]([H:9])[CH2:5][CH2:4][CH2:3][C:2]([CH3:11])([CH3:10])[CH3:1].[H:8][Cl:12] 12-12,8;8,6-8,12;6,8-6",Room Temperature,Propagation,abstraction
"[H:3][C:2]([H:4])[CH3:1].[Cl:5][Cl:6]>>[H:3][C:2]([H:4])([CH3:1])[Cl:5].[Cl:6] 5,6-2,5;2-2,5;5,6-6",Room Temperature,Propagation,abstraction
"CC1CCC([C:10](C)C)C1CC(C(OC)=O)C(OC)=O.[H:21][C:20]([H])(C(OC)=O)C(OC)=O>>CC2CCC([C:10](C)([H:21])C)C2CC(C(OC)=O)C(OC)=O.[H][C:20](C(OC)=O)C(OC)=O 10-10,21;20,21-10,21;20,21-20",Room Temperature,Propagation,abstraction
"[H:20][Sn:21](CCCC)(CCCC)CCCC.C1CC[CH:10]CC1>>[H:20][CH:10]1CCCCC1.CCCC[Sn:21](CCCC)CCCC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC1CCC(=C[CH:20]1)C.[Br:10]>>CC1CCC(=C[CH:20]1[Br:10])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:3][C:2]([CH3:1])[CH2:4][Br:5].[H:6][Br:7]>>[H:3][C:2]([H:6])([CH3:1])[CH2:4][Br:5].[Br:7] 2-2,6;7,6-2,6;7,6-7",Room Temperature,Propagation,abstraction
"[H:1][C:2](=[C:4]([H:5])[C:6]1=[CH:7][CH:8]=[CH:9][CH:10]=[CH:11]1)[H:3].[CH:15]1=[CH:14][CH:13]=[C:12][CH:17]=[CH:16]1>>[H:5][C:4]([C:6]1=[CH:7][CH:8]=[CH:9][CH:10]=[CH:11]1)[C:2]([H:1])([H:3])[C:12]2=[CH:13][CH:14]=[CH:15][CH:16]=[CH:17]2 12-12,2;2,4-12,2;2,4-4",Room Temperature,Propagation,addition
"CCCCCCCCCCCCSCC(C[CH:10]C(=O)OCC)C(=O)OCC.CCOC(=O)[CH:21]=[CH2:20]>>CCCCCCCCCCCCSCC(C[CH:10]([CH2:20][CH:21]C(=O)OCC)C(=O)OCC)C(=O)OCC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
